US09255100B2
N-cyclopropyl-4-{6-(3-fluorophenoxy)-8-[(3,3,3-trifluoro-2-hydroxypropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzamide
To a stirred solution of 96 mg (200 μmol) N-cyclopropyl-4-[6-(3-fluorophenoxy)-8-(methylsulfonyl)imidazo[1,2-b]pyridazin-3-yl]-2-methylbenzamide which was prepared according to intermediate example 486a in 2 mL NMP is added 77.5 mg (0.6 mmol) 3-amino-1,1,1-trifluoropropan-2-ol and 77.5 mg (0.6 mmol) DIPEA and the mixture is heated at 160° C. for 30 min in a microwave oven. After working up and purification 10.5 mg (9%) of the title compound are obtained.

reactant | N-cyclopropyl-4-[6-(3-fluorophenoxy)-8-(methylsulfonyl)imidazo[1,2-b]pyridazin-3-yl]-2-methylbenzamide | 200 μmol, 96 mg | C1(CC1)NC(C1=C(C=C(C=C1)C1=CN=C2N1N=C(C=C2S(=O)(=O)C)OC2=CC(=CC=C2)F)C)=O | C24H21FN4O4S
reactant | 3-amino-1,1,1-trifluoropropan-2-ol | 0.6 mmol, 77.5 mg | NCC(C(F)(F)F)O | C3H6F3NO
reactant | DIPEA | 0.6 mmol, 77.5 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | N-cyclopropyl-4-{6-(3-fluorophenoxy)-8-[(3,3,3-trifluoro-2-hydroxypropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzamide | C1(CC1)NC(C1=C(C=C(C=C1)C1=CN=C2N1N=C(C=C2NCC(C(F)(F)F)O)OC2=CC(=CC=C2)F)C)=O | C26H23F4N5O3
